US06130217
4-(2-Pyridin-2-yl-thiazol-4-yl)phenol hydrobromide
4-(2-Pyridin-2-yl-thiazol-4-yl)phenol hydrobromidewas preparedfrom α-bromo-4-hydroxyacetophenone and thiopicolinamide as described in Preparation 48; m.p. 261-262° C.

reactant | 4-(2-Pyridin-2-yl-thiazol-4-yl)phenol | N1=C(C=CC=C1)C=1SC=C(N1)C1=CC=C(C=C1)O | C14H10N2OS
reactant | α-bromo-4-hydroxyacetophenone | C1=CC(=CC=C1C(=O)CBr)O | C8H7BrO2
reactant | thiopicolinamide | N1=C(C=CC=C1)C(=S)N | C6H6N2S
product | 4-(2-Pyridin-2-yl-thiazol-4-yl)phenol hydrobromide | Br.N1=C(C=CC=C1)C=1SC=C(N1)C1=CC=C(C=C1)O | InChI=1S/C14H10N2OS.BrH/c17-11-6-4-10(5-7-11)13-9-18-14(16-13)12-3-1-2-8-15-12;/h1-9,17H;1H
